US08278482B2
2-(Methyl(2-methyl-2-nitropropyl)amino)ethanol
To a stirred solution of 2-nitropropane (20.0 g, 0.22 mol), 2-(methylamino)ethanol (19.7 mL, 1.1 equiv, 0.24 mol) and 5 N NaOH (0.24 mL, 0.005 equiv, 1.2 mmol) in a mixture of isopropanol (34 mL) and water (3.4 mL) was added dropwise a 37% solution of formaldehyde (18.2 mL, 1.1 equiv, 0.24 mol) over 15 min. The reaction was left to stir for 17 h then the solvent was removed in vacuo. 4 M HCl in dioxanes (66 mL, 0.26 mol) was added to the residue and the solvent removed in vacuo to give an oily residue. The oil was triturated with a mixture of isopropanol and anhydrous diethyl ether to give a hygroscopic white powder. The white powder was dissolved into water (100 mL) and 5 N NaOH (35 mL) was added to give a pale yellow green oil. The oil was extracted with DCM (150 mL) and the organic layer washed with water (2×100 mL), dried over anhydrous MgSO4, filtered and concentrated to a pale yellow green oil (28.0 g, 71.6%). 1H NMR (CDCl3, 400 MHz): δ 1.59 (s, 6H), 2.30 (s, 3H), 2.35-2.38 (t, J=11.2, 1H), 2.63-2.65 (t, J=5.6, 2H), 2.93 (s, 2H), 3.53-3.57 (q, J=5.3, 2H). LRMS (ESI+) for C7H16N2O3 (176.1); Found: 177 (MH+).

reactant | 2-nitropropane | 0.22 mol, 20.0 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 2-(methylamino)ethanol | 0.24 mol, 19.7 mL, 1.1 equiv | CNCCO | C3H9NO
reactant | NaOH | 1.2 mmol, 5 N, 0.24 mL, 0.005 equiv | [OH-].[Na+]
reactant | formaldehyde | 0.24 mol, 18.2 mL, 1.1 equiv | C=O | CH2O
reactant | HCl | 4 M | Cl | ClH
reactant | NaOH | 5 N, 35 mL | [OH-].[Na+]
solvent | isopropanol | 34 mL | C(C)(C)O | C3H8O
solvent | water | 3.4 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 2-(Methyl(2-methyl-2-nitropropyl)amino)ethanol | CN(CCO)CC(C)([N+](=O)[O-])C | C7H16N2O3
